US06949542B2
(2-Nitro-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester
The title compound was prepared via the di-Boc-compound from commercially available 4-amino-3-nitrobenzotrifluoride [CAS-No. 400-98-6] (20.61 g, 100 mmol) and Boc2O (44.07 g, 205 mmol), followed by treatment with 2 eq. TFA in CH2Cl2 according to the general procedure A (method c). Obtained as a yellow solid (30.2 g, 99%).

reactant | 4-amino-3-nitrobenzotrifluoride | 100 mmol, 20.61 g | NC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C7H5F3N2O2
reactant | Boc2O | 205 mmol, 44.07 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (2-Nitro-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-])=O | C12H13F3N2O4
